US07598391B2
1,1-Dicyclohexyl-3-(4-morpholin-4-ylmethyl-thiazol-2-yl)-urea was prepared in 30% yield (30 mg) as described in general procedure A from 1,1-dicyclohexyl-3-(4-formyl-thiazol-2-yl)-urea (101 mg, 0.3 mmol) and morpholine (30 μL, 0.3 mmol) using sodium triacetoxyborohydride as the reducing reagent.

reactant | 1,1-dicyclohexyl-3-(4-formyl-thiazol-2-yl)-urea | 0.3 mmol, 101 mg | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | morpholine | 0.3 mmol, 30 μL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-(4-morpholin-4-ylmethyl-thiazol-2-yl)-urea | 30% yield | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CN1CCOCC1)C1CCCCC1 | C21H34N4O2S
